US09403798B2
6-[4-(4-Fluorphenyl)piperazin-1-yl]-1,3,5-triazine-2,4(1H,3H)-dione
An acetic acid solution of 2,4-dichloro-6-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazine (2.40 g, 7.31 mmol) synthesized in Reference Synthesis Example 1 and sodium acetate (1.80 g) was stirred at 80° C. for 8 hours. After completion of the reaction, the reaction solution was poured into water and the obtained solid was collected by filtration. Extraction with ethyl acetate was performed from the filtrate and the resultant ethyl acetate phase was concentrated under reduced pressure. The residue and the solid collected by filtration were combined and the combination was suspended into ethyl acetate, collected by filtration, washed with ethyl acetate, and dried under reduced pressure to obtain the title compound (1.82 g, yield 86%).

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 2,4-dichloro-6-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazine | 7.31 mmol, 2.40 g | ClC1=NC(=NC(=N1)Cl)N1CCN(CC1)C1=CC=C(C=C1)F | C13H12Cl2FN5
reactant | sodium acetate | 1.80 g | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 6-[4-(4-Fluorphenyl)piperazin-1-yl]-1,3,5-triazine-2,4(1H,3H)-dione | 1.82 g, yield 86% | FC1=CC=C(C=C1)N1CCN(CC1)C1=NC(NC(N1)=O)=O | C13H14FN5O2
